US07772245B2
A mixture of methyl-6-chloronicotinate (170 mg), 1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole (170 mg), potassium carbonate (150 mg) and dioxane (6 mL) was heated in a 100° C. oil bath overnight. Another aliquote of 1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole (170 mg) was added and the heating was continue for five hours. The reaction was cooled and partitioned between water and EtOAc. The organics were washed with water, dried, and the solvent evaporated. The residue was purified by filtration through silica gel eluting with EtOAc to give methyl 6-(1,3,4,9-tetrahydro-2H-b-carbolin-2-yl)nicotinate as a brown solid (75 mg), m/e=308 (M+1).

reactant | methyl-6-chloronicotinate | 170 mg | COC(C1=CN=C(C=C1)Cl)=O | C7H6ClNO2
reactant | 1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole | 170 mg | C1NCCC2=C1NC1=CC=CC=C21 | C11H12N2
reactant | potassium carbonate | 150 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole | 170 mg | C1NCCC2=C1NC1=CC=CC=C21 | C11H12N2
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | methyl 6-(1,3,4,9-tetrahydro-2H-b-carbolin-2-yl)nicotinate | 75 mg | C1N(CCC=2C3=CC=CC=C3NC12)C1=NC=C(C(=O)OC)C=C1 | C18H17N3O2
